US08877782B2
6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-N-pyridin-2-ylmethyl-nicotinamide
As described for example 12, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (200 mg, 0.64 mmol) was converted using 2-(aminomethyl)pyridine instead of 2,2,2-trifluoroethylamine to the title compound (SiO2, heptane:ethyl acetate:methanol=50:50:0 to 0:95:5, 191 mg, 74%) which was obtained as a white solid. MS: m/e=401.2 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.64 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | 2-(aminomethyl)pyridine | NCC1=NC=CC=C1 | C6H8N2
product | 6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-N-pyridin-2-ylmethyl-nicotinamide | 191 mg, 74% | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)NCC2=NC=CC=C2)C=C1 | C23H20N4O3
